US07338973B2
7-methoxy-3,10-dimethyl-3,10-dihydro-2,3,10-triaza-cyclopenta[a]fluorene
7-methoxy-3,10-dimethyl-3,4,5,10-tetrahydro-2,3,10-triaza-cyclopenta[a]fluorene (136 mg, 0.51 mmol) in DMF (2 mL) was treated with KO2 (5.0 eq.) at room temperature. The reaction mixture was stirred overnight. Water was added and the reaction mixture was extracted with ethyl acetate. The organic layer was washed with brine and dried, concentrated. The crude material was purified by silica gel column to yield the title compound as a white solid.

reactant | 7-methoxy-3,10-dimethyl-3,4,5,10-tetrahydro-2,3,10-triaza-cyclopenta[a]fluorene | 0.51 mmol, 136 mg | COC=1C=C2C=3CCC4=C(C3N(C2=CC1)C)C=NN4C | C16H17N3O
reactant | Water | O | H2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 7-methoxy-3,10-dimethyl-3,10-dihydro-2,3,10-triaza-cyclopenta[a]fluorene | COC=1C=C2C3=CC=C4C(=C3N(C2=CC1)C)C=NN4C | C16H15N3O
